US07491821B2
To a solution of 1-[4-(2-amino-propyl)-piperazin-1-yl]-ethanone (149 mg, 0.4 mmol) and triethylamine (TEA, 118 μl, 0.8 mmol) was added Lawesson's reagent (162 mg, 0.4 mmol) at RT. The reaction mixture was heated at reflux for 3 h to provide 1-[4-(2-aminopropyl)-piperazin-1-yl]-ethanethione (intermediate IVa). The solvent was evaporated and the residue was partitioned between ethyl ether and HCl (1 N), the organic layer was discarded and the aqueous layer was basified by addition of a saturated solution of K2CO3. The aqueous solution was extracted with ethyl acetate four times. The organic layers were combined, dried over sodium sulfate and evaporated. The crude mixture was used for the next coupling reaction. M+=202.

reactant | 1-[4-(2-amino-propyl)-piperazin-1-yl]-ethanone | 0.4 mmol, 149 mg | NC(CN1CCN(CC1)C(C)=O)C | C9H19N3O
reactant | triethylamine | 0.8 mmol, 118 μl | C(C)N(CC)CC | C6H15N
reactant | Lawesson's reagent | 0.4 mmol, 162 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
product | 1-[4-(2-aminopropyl)-piperazin-1-yl]-ethanethione | NC(CN1CCN(CC1)C(C)=S)C | C9H19N3S
